US03971806
5-Isopropylthiopyrano[3,2-b]indol-4(5H)-one
By the same method as described in Example 7, 4.8 g of thiopyrano-[3,2-b]indol-4(5H)-one is alkylated with isopropyl bromide to give 2.4 of product, mp 154-6°C, after recrystallization from methylene chloride-hexane.

reactant | thiopyrano-[3,2-b]indol-4(5H)-one | 4.8 g | S1C=CC(C=2NC=3C=CC=CC3C21)=O | C11H7NOS
reactant | isopropyl bromide | C(C)(C)Br | C3H7Br
product | 5-Isopropylthiopyrano[3,2-b]indol-4(5H)-one | C(C)(C)N1C2=C(C=3C=CC=CC13)SC=CC2=O | C14H13NOS
